US09085555B2
E. 3-Aminomethyl-5-chloro-4-fluoro-benzoic acid methyl ester
To a solution of 3-(tert-butoxycarbonylamino-methyl)-5-chloro-4-fluoro-benzoic acid methyl ester (4.25 g, 13.4 mmol) in CH2Cl2 (70 mL) was added TFA (10.3 mL, 134 mmol), and stirring was continued at RT overnight. Methanol was then added to the reaction mixture, and volatiles were removed in vacuo. The residue was taken up in methanol and concentrated again under reduced pressure to afford the title compound as a beige solid. MS (LC/MS): 218.0 [M+H]+; tR (HPLC conditions c): 3.10 min. The material thus obtained was used in the next reaction step without further purification.

reactant | 3-(tert-butoxycarbonylamino-methyl)-5-chloro-4-fluoro-benzoic acid methyl ester | 13.4 mmol, 4.25 g | COC(C1=CC(=C(C(=C1)Cl)F)CNC(=O)OC(C)(C)C)=O | C14H17ClFNO4
reactant | TFA | 134 mmol, 10.3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | Methanol | CO | CH4O
solvent | CH2Cl2 | 70 mL | C(Cl)Cl | CH2Cl2
product | 3-Aminomethyl-5-chloro-4-fluoro-benzoic acid methyl ester | COC(C1=CC(=C(C(=C1)Cl)F)CN)=O | C9H9ClFNO2
